US09428477B2
Production of 1-((E)-2-Decenoyl)-4-diethylaminopiperidine [Compound 13]
The same procedures as in Example 2 were carried out using (E)-2-decenoic acid and 4-diethylaminopiperidine as starting raw materials, to produce an intended compound.

reactant | (E)-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
reactant | 4-diethylaminopiperidine | C(C)N(C1CCNCC1)CC | C9H20N2
product | 1-((E)-2-Decenoyl)-4-diethylaminopiperidine | C(\C=C\CCCCCCC)(=O)N1CCC(CC1)N(CC)CC | C19H36N2O
